US09422332B2
To a solution of (S)-1-(2,6-difluoro-phenylcarbamoyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester in CH2Cl2 (3 mL) was added TFA (1 mL) dropwise. The reaction was stirred at RT for 1 h and the mixture evaporated to afford (S)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide which was used without further purification.

reactant | (S)-1-(2,6-difluoro-phenylcarbamoyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C2=CC=CC=C2C1)C(NC1=C(C=CC=C1F)F)=O | C20H20F2N2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1NCC2=CC=CC=C12 | C15H12F2N2O
